Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / shellfish derived
 
Attending: ___.
 
Chief Complaint:
rash on leg
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F with PMH as noted, with LLE erythema.  Pt slipped
in the tub into her own stool and had a cut, with subsequent
erythema.  On ___ ___ without DVT.  On ___ began doxycycline,
now with minimal change to erythema and continued pain.  Pt sent
to ED from outpatient visit for evaluation for cellulitis.
She reports that her LLE erythema has improved since receiving
antibiotics in the emergency room, with decreased pain.  There 
is
no overall change to the swelling.
ED data notable for AFVSS, WBC 8.3, nl lactate and creatinine, 
no dvt on ___, no gas on plain films. Started on vancomycin and 
cefazolin (switched to po Keflex on floor). 
 
Past Medical History:
1)Hypertension  
2)OCD  
3)Depression  
4)Hyperlipidemia 
 
Social History:
___
Family History:
NC
 
Physical Exam:
GENERAL:  NAD
Mentation:  Alert
Eyes:  NC/AT
Ears/Nose/Mouth/Throat:  MMM
Neck:  Supple
Resp:  CTA bilat
CV:  RRR, normal S1S2
GI:  Soft, NT/ND
Skin:  LLE erythema/warmth just distal to patella.  Area has
receded c/w marked area, save for one spot anterior where the
erythema extends beyond the mark
Extremities: LLE edema
Lymph/Heme/Immun:  No cervical ___ noted
Neuro:  Alert & oriented x3

 
Pertinent Results:
___ 11:36AM BLOOD WBC-9.6 RBC-4.06 Hgb-13.0 Hct-37.6 MCV-93 
MCH-32.0 MCHC-34.6 RDW-12.1 RDWSD-41.6 Plt ___
___ 11:36AM BLOOD Glucose-100 UreaN-11 Creat-0.6 Na-138 
K-3.5 Cl-96 HCO3-28 AnGap-14
___ 07:25AM BLOOD Calcium-8.4 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
#LLE cellulitis refractory to doxycycline: 
The ED broadened coverage to vancomycin/cefazolin with
improvement, but her erythema/warmth is still quite extensive
(from just distal to patella to her ankle). As such, given
improvement with vanco/cefazolin, continued vanco and switch
cefazolin to oral cephalexin for skin/soft tissue infection,
including MRSA coverage
- started on vanc and Keflex (start date ___
- Leg elevation when at rest
- when discharged, put on Bactrim and Keflex for 5 more days 
(total 7 day course) with Tylenol, oxycodone and sarna for 
symptomatic treatment

2.  Anxiety, obsessive/compulsive disorder - Continue outpatient
meds

3.  HTN - Continue amlodipine, metoprolol, ASA
Hypercholesterolemia - Continue atorvastatin

4.  Rheumatoid arthritis - Pt has not been taking MTX; will
continue to hold for now

>35 min spent on discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Escitalopram Oxalate 30 mg PO DAILY 
5. LORazepam 0.5-1 mg PO BID:PRN anxiety 
6. Aspirin 81 mg PO DAILY 
7. Calcium Carbonate 500 mg PO BID 
8. Vitamin D 1000 UNIT PO BID 
9. FoLIC Acid 0.8 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 capsule(s) by mouth every 8 hours 
Disp #*36 Capsule Refills:*0 
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every 6 hours Disp 
#*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
Do not operate heavy machinery 
RX *oxycodone 5 mg 1 capsule(s) by mouth every six hours Disp 
#*20 Capsule Refills:*0 
4.  Sarna Lotion 1 Appl TP BID 
RX *camphor-menthol [Anti-Itch (menthol/camphor)] 0.5 %-0.5 %  
three times daily Disp #*1 Bottle Refills:*0 
5.  Sulfameth/Trimethoprim DS 2 TAB PO BID cellulitis 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice daily Disp #*20 Tablet Refills:*0 
6.  amLODIPine 2.5 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Atenolol 25 mg PO DAILY  
9.  Atorvastatin 40 mg PO QPM  
10.  Calcium Carbonate 500 mg PO BID  
11.  Escitalopram Oxalate 30 mg PO DAILY  
12.  FoLIC Acid 0.8 mg PO DAILY  
13.  LORazepam 0.5-1 mg PO BID:PRN anxiety  
14.  Vitamin D 1000 UNIT PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LLE cellulitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to cellulitis that failed 
treatment with . We treated you with two antibiotics (vancomycin 
and Keflex). We are discharging you with Keflex and Bactrim, 
which you should take for five more days. We are also providing 
you with Tylenol, sarna lotion and oxycodone for leg pain. Do 
not take the oxycodone if you plan to operate heavy machinery or 
drink alcohol as it can make you confused and prone to falls. 
Please return to the ED if your rash gets worse or if you 
develop a fever.
 
Followup Instructions:
___